US06548677B1
Preparation of 3,6-dichloro-2-methylbenzyl bromide
170.1 g (0.97 mol) of 3,6-dichloro-1,2-xylene are initially charged in 1180 ml of chlorobenzene, and 4.9 g of conc. H2SO4 and 203.1 g (1.18 mol) of 47% strength hydrobromic acid are added. The mixture is heated to 70° C., and 0.9 g of AIBN are added. Over a period of 5 h, 353.7 g (1.04 mol) of a 10% strength solution of hydrogen peroxide are added at 70-75° C., the mixture is stirred at 70-75° C. for 30 min, washed twice with 400 ml of water and once with 400 ml of saturated sodium bicarbonate solution, and the chlorobenzene is then distilled off.

reactant | 3,6-dichloro-1,2-xylene | 0.97 mol, 170.1 g | ClC1=C(C(=C(C=C1)Cl)C)C | C8H8Cl2
reactant | H2SO4 | 4.9 g | OS(=O)(=O)O | H2O4S
reactant | hydrobromic acid | Br | BrH
reactant | AIBN | 0.9 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | hydrogen peroxide | OO | H2O2
solvent | chlorobenzene | 1180 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 3,6-dichloro-2-methylbenzyl bromide | ClC=1C(=C(CBr)C(=CC1)Cl)C | C8H7BrCl2
